US05190969
Preparation of (2R-cis)-3-Heptyloxirane carboxylic acid.
To a solution of 300 mg (1.16 mmole) (2R-cis)-3-heptyloxiranemethanol in 50 ml of DMF was added 2.62 g (6.97 mmole) of pyridinium dichromate. The reaction was allowed to stir overnight under argon. The mixture was then diluted with 150 ml H2O and 20 ml 0.1M HCl and washed three times with 50 ml of Et2O. The combined Et2O layers are dried over MgSO4, filtered and evaporated to afford a white powder. This residue was crystallized from petroleum ether to afford 155 mg of white power, mp 53°-5° C. 1H NMR (CDCl3) δ3.60 (d, 1, J=5 Hz), 3.24 (dd, 1, J=5 12 Hz), 1.6-1.2 (m, 12), 0.88 (t, 3, J=7 Hz). Mass Spectra: M-45(--CO2H)(3.7)141.1, M(100)41.0.

reactant | (2R-cis)-3-heptyloxiranemethanol | 1.16 mmole, 300 mg | C(CCCCCC)[C@H]1[C@H](O1)CO | C10H20O2
reactant | pyridinium dichromate | 6.97 mmole, 2.62 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | H2O | 150 ml | O | H2O
solvent | HCl | 0.1M, 20 ml | Cl | ClH
product | (2R-cis)-3-Heptyloxirane carboxylic acid | C(CCCCCC)[C@@H]1[C@@H](O1)C(=O)O | C10H18O3
